US07176242B2
3-{[(tert-Butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoic acid
To a stirred solution of methyl 3-{[(tert-butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoate (70 mg, 0.21 mmol) in methanol (2 mL), tetrahydrofuran (1 mL), and water (1 mL) is added lithium hydroxide (88 mg, 2.1 mmol), and the reaction mixture stirred at room temperature for 2 h. The reaction mixture is concentrated under reduced pressure, dissolved in methylene chloride, filtered, and the filtrate concentrated under reduced pressure to provide the title compound.

reactant | methyl 3-{[(tert-butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoate | 0.21 mmol, 70 mg | C(C)(C)(C)OC(=O)N(CCCC)CC=1C=C(C(=O)OC)C=C(C1)C | C19H29NO4
reactant | water | 1 mL | O | H2O
reactant | lithium hydroxide | 2.1 mmol, 88 mg | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 3-{[(tert-Butoxycarbonyl)(butyl)amino]methyl}-5-methylbenzoic acid | C(C)(C)(C)OC(=O)N(CCCC)CC=1C=C(C(=O)O)C=C(C1)C | C18H27NO4
